US06156700
Preparation of 5-Nitro-1,2-benzisothiazol-3(2H)-one
A mixture of 2,2'-dithiobis[5-nitrobenzoic acid] (44.6 g, 0.113 mol) and thionyl chloride (49.0 mL, 0.670 mol) in methylene chloride is treated with N,N-dimethylformamide (0.800 mL), refluxed overnight, concentrated in vacuo, and diluted with 1,2-dichloroethane. The resultant organic solution is treated with bromine (22.5 mL, 0.436 mol), stirred at room temperature for 20 minutes, refluxed for 3.5 hours, and concentrated in vacuo to obtain a residue. A solution of the residue in 1,2-dichloroethane is cooled with an ice-water bath, treated with concentrated ammonia (112 mL) over 15 minutes, stirred at room temperature for 16 hours, cooled with an ice-water bath, and treated with concentrated hydrochloric acid. The resultant aqueous mixture is stirred at room temperature for one hour and filtered to obtain a solid. The solid is washed with water and air-dried to give the title product as a yellow solid which is identified by NMR spectral analysis.

reactant | 2,2'-dithiobis[5-nitrobenzoic acid] | 0.113 mol, 44.6 g | [N+](=O)([O-])C=1C=CC(=C(C(=O)O)C1)SSC1=C(C(=O)O)C=C(C=C1)[N+](=O)[O-] | C14H8N2O8S2
reactant | thionyl chloride | 0.670 mol, 49.0 mL | S(=O)(Cl)Cl | Cl2OS
reactant | bromine | 0.436 mol, 22.5 mL | BrBr | Br2
reactant | ammonia | 112 mL | N | H3N
reactant | hydrochloric acid | Cl | ClH
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | 1,2-dichloroethane | ClCCCl | C2H4Cl2
solvent | N,N-dimethylformamide | 0.800 mL | CN(C=O)C | C3H7NO
product | 5-Nitro-1,2-benzisothiazol-3(2H)-one | [N+](=O)([O-])C=1C=CC2=C(C(NS2)=O)C1 | C7H4N2O3S
